US07459577B2
To the mixture of the silanes containing diisopropylmethoxychlorosilane as obtained from the disproportionation reaction in (b) above, was added 150 ml of toluene to dissolve the mixture, thereby to obtain a toluene solution of the said silane mixture. The THF solution of isopropyl magnesium chloride (Grignard reagent) as prepared in (a) above was added dropwise through a dropping funnel to the toluene solution of said silane mixture at 40° C.-50° C. over 1 hour. Then the resulting mixture was stirred at 70° C. for 4 hours. Thus, the Grignard reagent was reacted with the diisopropylmethoxychlorosilane contained in the said toluene solution, to produce triisopropylmethoxysilane. To the resulting reaction solution was added dropwise 40 ml of a saturated aqueous ammonium chloride solution to dissolve the magnesium salt in the latter. The organic layer was separated from the aqueous layer and the organic layer, was distilled to afford 28 g of triisopropylmethoxysilane as a fraction boiling at 85° C.-86° C./20 mm Hg. The yield was 73%.

reactant | THF | C1CCOC1 | C4H8O
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | silane | [SiH4] | H4Si
reactant | diisopropylmethoxychlorosilane | C(C)(C)[Si](Cl)(OC)C(C)C | C7H17ClOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | triisopropylmethoxysilane | C(C)(C)[Si](OC)(C(C)C)C(C)C | C10H24OSi
